US04267190
A. 3-(4-Fluorophenyl)-2-methyl-2-propen-1-al
To a solution of 124 g (1 mole) of 4-fluorobenzaldehyde and 8 g (0.143 mole) of potassium hydroxide in 500 ml ethanol at room temperature was added dropwise a solution of 52.2 g (0.9 mole) of propionaldehyde in 100 ml ethanol. After stirring for 0.5 hour, the mixture was acidified with acetic acid and concentrated by rotary evaporation. The residue was partitioned between methylene chloride and water. The aqueous layer was extracted three times with additional methylene chloride. The combined organic layers were dried and concentrated. Distillation through a 12-inch vacuum jacketed column gave 113.5 g (77%) of pale yellow low-melting crystalline product, b.p. 70°-72° C. (0.4-0.7 mm).

reactant | 4-fluorobenzaldehyde | 1 mole, 124 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium hydroxide | 0.143 mole, 8 g | [OH-].[K+]
reactant | propionaldehyde | 0.9 mole, 52.2 g | C(CC)=O | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(4-Fluorophenyl)-2-methyl-2-propen-1-al | 113.5 g, 77% | FC1=CC=C(C=C1)C=C(C=O)C | C10H9FO
